US07645753B2
3-Ethoxy-4-(1-ethyl-propoxy)-benzaldehyde
The title compound was prepared analogously to intermediate 2 (4-methoxy-3-propoxy-benzaldehyde) by reaction of 3-ethoxy-4-hydroxy-benzaldehyde with 3-bromo-pentane in DMF using K2CO3 as base. MS (ISP): 237.1 [M+H]+.

reactant | 3-ethoxy-4-hydroxy-benzaldehyde | C(C)OC=1C=C(C=O)C=CC1O | C9H10O3
reactant | 3-bromo-pentane | BrC(CC)CC | C5H11Br
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-Ethoxy-4-(1-ethyl-propoxy)-benzaldehyde | C(C)OC=1C=C(C=O)C=CC1OC(CC)CC | C14H20O3
